* D:\Usuário\Documents\GitHub\EEL7303\Laboratorios\LAB01\Simulação\Lab01.asc
V1 Vi 0 SINE(0 1 1K) AC 1
Rg N002 Vi 50
R1_1 Vin N001 5.1k
R1_2 0 Vin 5.1k
R2_1 Vo1 N001 1.5k
R3_1 0 Ve 2631
Q1 Vo1 Vin Ve 0 BC547B
V2 N001 0 12
C1 Vin N002 100µ
C2 N003 Vo1 100µ
Q2 Vo N003 N004 0 BC547B
R1_3 N003 N001 5.1k
R2_2 Vo N001 1.5k
R1_4 0 N003 5.1k
R3_2 0 N004 2631
C3 N004 0 220µ
.model NPN NPN
.model PNP PNP
.lib D:\Usuário\Documents\LTspiceXVII\lib\cmp\standard.bjt
;.op
.ac dec 100 1 100MEG
;tran 0 5ms 0 1u
.backanno
.end
